US07452911B2
3.71d 5-(4-chloro-phenyl)-2-{4-[2-(4-methyl-piperidin-1-yl)-propoxy]-phenylethynyl}-pyridine
0.21 mL (1.80 mmol) 4-methylpiperidine are added to a solution of 133 mg (0.30 mmol) 2-{4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-phenoxy}-1-methyl-ethyl methanesulphonate in 2 mL DMF and the mixture is stirred for 16 h at 60° C. and 6 h at 80° C. The solvent is eliminated i.vac., the residue is triturated with isopropanol, suction filtered and dried at 30° C. in the circulating air dryer.

reactant | 4-methylpiperidine | 1.80 mmol, 0.21 mL | CC1CCNCC1 | C6H13N
reactant | 2-{4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-phenoxy}-1-methyl-ethyl methanesulphonate | 0.30 mmol, 133 mg | CS(=O)(=O)OC(COC1=CC=C(C=C1)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl)C | C23H20ClNO4S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(4-chloro-phenyl)-2-{4-[2-(4-methyl-piperidin-1-yl)-propoxy]-phenylethynyl}-pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)OCC(C)N1CCC(CC1)C | C28H29ClN2O
